US06218390B1
a. 4-(2,4-Difluorobenzoyl)piperidinone
To a suspension of 4-piperidinone monohydrate hydrochloride (2.00 g, 13.28 mmol) in CH2Cl2 (40 mL) and triethylamine (5.0 mL) was added 2,4-difluorobenzoyl chloride (2.84 g, 15.93 mmol). The resulting mixture was stirred at room temperature for 5 hours before quenching with aqueous NaHCO3 (30 mL). Extracted with EtOAc (3×50 mL), dried (MgSO4), and concentrated to a residue which was purified by flash chromatography (EtOAc:Hexanes 9:1 to 1:1 ) afford product as an oil (2.25 g, 71%).

reactant | 4-piperidinone monohydrate hydrochloride | 13.28 mmol, 2.00 g | Cl.O.N1CCC(CC1)=O
reactant | 2,4-difluorobenzoyl chloride | 15.93 mmol, 2.84 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 5.0 mL | C(C)N(CC)CC | C6H15N
product | 4-(2,4-Difluorobenzoyl)piperidinone | 2.25 g, 71% | FC1=C(C(=O)C2CC(NCC2)=O)C=CC(=C1)F | C12H11F2NO2
